US06780996B2
A mixture of 7-fluoro-6-methoxy-4-oxo-1,4,-dihydro-3-quinolinecarboxamide (700 mg, 3.0 mmol) and cyanuric chloride (341 mg, 1.65 mmol) in 15 mL of N,N,-dimethylformamide is heated at 65° C. for 6 hours then cooled to room temperature and an additional 206 mg of cyanuric chloride is added. The mixture is heated at 65° C. for 4 hours then stirred overnight at room temperature. The reaction mixture is poured into ice water and neutralized with saturated sodium bicarbonate. The solids are collected by filtration washing with water and hexane to provide 610 mg of crude product. Purification by flash column chromatography eluting with a gradient of 3% methanol in dichloromethane to 10% methanol in dichloromethane, provides 272 mg of 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarbonitrile, mp 147-149° C.

reactant | 7-fluoro-6-methoxy-4-oxo-1,4,-dihydro-3-quinolinecarboxamide | 3.0 mmol, 700 mg | FC1=C(C=C2C(C(=CNC2=C1)C(=O)N)=O)OC | C11H9FN2O3
reactant | cyanuric chloride | 1.65 mmol, 341 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | cyanuric chloride | 206 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N,-dimethylformamide | 15 mL | CN(C)C=O | C3H7NO
product | 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarbonitrile | 272 mg | FC1=C(C=C2C(C(=CNC2=C1)C#N)=O)OC | C11H7FN2O2
